US07951815B2
To a solution of 3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one (2.1 g, 5.5 mmol) in 20 mL of dry THF there was added sodium hydride (130 mg, 5.5 mmol) at 0° C. and under a blanket of nitrogen. Following stirring over a period of 1 h at 0° C., benzyl chloride (760 mg, 6.0 mmol) was slowly added dropwise, and the mixture was allowed to warm up to RT and then heated under reflux over a period of 4 d. Following the addition of an aqueous saturated NH4Cl solution (30 mL), the reaction mixture was isolated by filtration, the filtrate was extracted with EE (3×20 mL), the combined organic phases were dried over Na2SO4, and the solvent was removed. Further purification was carried out by column chromatography. The product 1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one was obtained as a yellow oil in a yield of 2.62 g (99%).

reactant | 3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one | 5.5 mmol, 2.1 g | C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)=O | C21H22ClN3O2
reactant | sodium hydride | 5.5 mmol, 130 mg | [H-].[Na+]
reactant | benzyl chloride | 6.0 mmol, 760 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)CC2=CC=CC=C2)=O | C28H28ClN3O2
